US04273782
1-(2-Cyanoethyl)-2-isopropyl-3-(1-imidazolylmethyl)indole (2.0 g) was dissolved in concentrated hydrochloric acid (10 ml) and the solution was allowed to stand for 18 hours at room temperature. It was cautiously basified with dilute sodium hydroxide solution and the mixture was extracted with ethyl acetate (3×25 ml). The combined ethyl acetate extracts were washed with water and dried (Na2SO4). The solvent was evaporated and the residue was chromatographed on silica gel. Elution with a mixture of chloroform and methanol (95:5) gave initially a small amount of impurity followed by pure product. Evaporation of the product containing fraction gave a gum which solidified on trituration with ethanol. The solid was crystallised from ethanol/petrol (b.p. 60°-80° C.) to give 1-(2-carbamoylethyl)-2-isopropyl-3-(1-imidazolylmethyl)indole (1.03 g), m.p. 169°-171° C. Found: C, 69.54; H, 7.25; N, 18.12. C18H22N4O4 requires: C, 69.64; H, 7.14; N, 18.05.

reactant | 1-(2-Cyanoethyl)-2-isopropyl-3-(1-imidazolylmethyl)indole | 2.0 g | C(#N)CCN1C(=C(C2=CC=CC=C12)CC=1NC=CN1)C(C)C | C18H20N4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | 1-(2-carbamoylethyl)-2-isopropyl-3-(1-imidazolylmethyl)indole | 1.03 g | C(N)(=O)CCN1C(=C(C2=CC=CC=C12)CC=1NC=CN1)C(C)C | C18H22N4O
